US05436252
1-(2-Thienoyl)-4-methylsemicarbazide
When in the procedure of Example 1, 2-thiophenecarboxylic acid hydrazide is substituted for 4-chlorobenzoic acid hydrazide and methyl isocyanate is substituted for ethyl isocyanate, the title compound is obtained.

reactant | 2-thiophenecarboxylic acid hydrazide | S1C(=CC=C1)C(=O)NN | C5H6N2OS
reactant | 4-chlorobenzoic acid hydrazide | ClC1=CC=C(C(=O)NN)C=C1 | C7H7ClN2O
reactant | methyl isocyanate | CN=C=O | C2H3NO
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
product | 1-(2-Thienoyl)-4-methylsemicarbazide | S1C(=CC=C1)C(=O)NNC(=O)NC | C7H9N3O2S
